US07595403B2
The preparation of 6-Chloro-3-oxo-3H-benzo[d]isothiazole-2-carboxylic acid cyclohexylamide
Following the synthetic procedure of 6a as described in Example 1, compound 6y (84% yield) was synthesized from 6-chloro-benzo[d]isothiazol-3-one and cyclohexyl isocyanate as a white solid. IR(CHCl3) 3289, 1711, 1533 cm−1; 1H-NMR (CDCl3) δ1.20-1.48 (m, 5H), 1.58-1.68 (m, 1H), 1.70-1.80 (m, 2H), 1.92-2.05 (m, 2H), 3.80-3.92 (m, 1H), 7.38 (d, J=8.3 Hz, 1H), 7.58 (s, 1H), 7.92 (d, J=8.3 Hz, 1H), 8.75 (d, J=7.8 Hz, 1H); ESIMS m/e 311 and 313 (M++1, 35Cl and 37Cl).

reactant | 6-chloro-benzo[d]isothiazol-3-one | ClC1=CC2=C(C(NS2)=O)C=C1 | C7H4ClNOS
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 6-Chloro-3-oxo-3H-benzo[d]isothiazole-2-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)N1SC2=C(C1=O)C=CC(=C2)Cl | C14H15ClN2O2S
